US05145703
When using 2-methyltetrahydrofuryl-3-thiol or 2-methyl-thienyl-3-thiol instead of 2-methylfuryl-3-thiol and 3-buten-2-one instead of 3-penten-2-one, 4-(2-methyl-3-tetrahydrofuryl-thio)-pentan-2-one, 4-(2-methyl-3-thienyl-thio)-pentan-2-one and 4-(2-methyl-3-thienyl-thio)-butan-2-one were obtained.

reactant | 3-buten-2-one | CC(C=C)=O | C4H6O
reactant | 4-(2-methyl-3-tetrahydrofuryl-thio)-pentan-2-one | CC1OCCC1SC(CC(C)=O)C | C10H18O2S
reactant | 4-(2-methyl-3-thienyl-thio)-pentan-2-one | CC=1SC=CC1SC(CC(C)=O)C | C10H14OS2
product | 4-(2-methyl-3-thienyl-thio)-butan-2-one | CC=1SC=CC1SCCC(C)=O | C9H12OS2
